US08232294B2
Step 2) (R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(methylamino)acetate
To a solution of (R)-1-(4-(4-(7-methoxyquinolin-4-yloxy)-3-fluorophenylcarbamoyl)-2,3-dihydro-5-methyl-3-oxo-2-phenylpyrazol-1-yl)propan-2-yl-2-(N-benzyloxycarbo-nyl-N-methylamino)acetate (1.404 g, 1.876 mmol) in a mixture of EtOAc (100 mL) and MeOH (100 mL) was added catalytic amount of Pd/C (10%, ˜55% w/w water content, 100 mg) under N2 atmosphere. The suspension was degassed under vacuum and then purged with H2. The reaction mixture was stirred at rt for 1 h under H2 balloon. The mixture was filtered and the residue was washed with MeOH (50 mL×3). The filtrate used for the next step immediately.

reactant | (R)-1-(4-(4-(7-methoxyquinolin-4-yloxy)-3-fluorophenylcarbamoyl)-2,3-dihydro-5-methyl-3-oxo-2-phenylpyrazol-1-yl)propan-2-yl-2-(N-benzyloxycarbo-nyl-N-methylamino)acetate | 1.876 mmol, 1.404 g | COC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C[C@@H](C)OC(CN(C)C(=O)OCC1=CC=CC=C1)=O)C1=CC=CC=C1)=O)F | C41H38FN5O8
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | (R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(methylamino)acetate | CNCC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)F)=O)=O)C1=CC=CC=C1)C | C33H32FN5O6
